US04891363
dl-2-[7-(Tetrahydropyran-2-yloxy)heptyloxymethyl]tetrahydropyran-3-one
A solution of 2.387 g of dl-trans-2-[7-(tetrahydropyran-2-yloxy)heptyloxymethyl]tetrahydropyran-3-ol (prepared as described in Preparation 54) in 10 ml of methylene chloride was added all at once to a mixture of 2.33 g of pyridine chlorochromate, 1.78 g of sodium acetate and 10 ml of methylene chloride. The mixture was then stirred at room temperature for 3 hours, after which it was mixed with 30 ml of diethyl ether, and the solution was passed through a chromatography column containing 50 g of silica gel. The column was then washed with diethyl ether and the eluate was combined with the washings and then concentrated by evaporation under reduced pressure. The oily residue (2.24 g) was subjected to column chromatography through 60 g of silica gel. 1.786 g of the title compound was obtained, as an oil, from those fractions eluted with mixtures of hexane and ethyl acetate ranging from 3:1 to 2:1 by volume.

reactant | trans-2-[7-(tetrahydropyran-2-yloxy)heptyloxymethyl]tetrahydropyran-3-ol | O1C(CCCC1)OCCCCCCCOC[C@@H]1OCCC[C@H]1O | C18H34O5
reactant | pyridine chlorochromate | 2.33 g | [Cr](=O)(=O)(O)Cl.N1=CC=CC=C1
reactant | sodium acetate | 1.78 g | C(C)(=O)[O-].[Na+]
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-[7-(Tetrahydropyran-2-yloxy)heptyloxymethyl]tetrahydropyran-3-one | 1.786 g | O1C(CCCC1)OCCCCCCCOCC1OCCCC1=O | C18H32O5
